US08404684B2
5-(2-Methanesulfinyl-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-ylamine
m-CPBA (57-86% purity, 6.0 g, 20-30 mmol) is added in portions to a rapidly stirring solution/suspension of 4-methyl-5-(6-methyl-2-methylsulfanyl-pyrimidin-4-yl)-thiazol-2-ylamine (6.0 g, 23.8 mmol) in dry dichloromethane (200 ml) at 0° C. After the addition (15 minutes) the reaction is allowed to warm slowly to room temperature. The mixture is cautiously added to saturated sodium bicarbonate solution (300 ml), shaken, and the organic extract is separated and dried (MgSO4). This first extract contains a 1:1 mixture of sulfoxide and sulfone. The aqueous phase is then partitioned with chloroform to extract the titled compound as yellow solid.

reactant | m-CPBA | 20-30 mmol, 6.0 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 4-methyl-5-(6-methyl-2-methylsulfanyl-pyrimidin-4-yl)-thiazol-2-ylamine | 23.8 mmol, 6.0 g | CC=1N=C(SC1C1=NC(=NC(=C1)C)SC)N | C10H12N4S2
reactant | sodium bicarbonate | 300 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 5-(2-Methanesulfinyl-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-ylamine | CS(=O)C1=NC(=CC(=N1)C1=C(N=C(S1)N)C)C | C10H12N4OS2
